US04138581
Following the procedure described above in Example 15A using alpha-methylcyclopropaneacetyl chloride instead of cyclohexanecarbonyl chloride the acylation product obtained is 3,4-bis(alpha-methylcyclopropaneacetoxy)phenyl tert-butylaminomethyl ketone; and when this product is catalytically hydrogenated, using the procedure described above in Example 15B, there is obtained 3,4-bis(alpha-methylcyclopropaneacetoxy)-alpha-(tert-butylaminomethyl)benzyl alcohol.

reactant | alpha-methylcyclopropaneacetyl chloride | CC(C(=O)Cl)C1CC1 | C6H9ClO
reactant | 3,4-bis(alpha-methylcyclopropaneacetoxy)phenyl tert-butylaminomethyl ketone | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C(C1CC1)C)=O)OC(C(C1CC1)C)=O | C24H33NO5
product | 3,4-bis(alpha-methylcyclopropaneacetoxy)-alpha-(tert-butylaminomethyl)benzyl alcohol | CC(C(=O)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC(C(C1CC1)C)=O)C1CC1 | C24H35NO5
